US07179918B2
(2S,3R)-3-tert-butoxycarbonylamino-4-(3-fluoro-phenyl)-2-hydroxy-butyric acid.
A mixture of (2S,3R)-3-tert-butoxycarbonylamino-2-(2-chloro-acetoxy)-4-(3-fluoro-phenyl)-butyric acid methyl ester (4.56 g, 11.3 mmol, 1 eq), 4N NaOH (6.5 mL, 25.9 mmol, 2.3 eq), MeOH (48 mL) and 1.4-dioxane (72 mL) was stirred at ambient temperature for 4 h after which the solvents were removed in vacuo and the residue was charged with H2O (50 mL) and washed with Et2O (100 mL). The aqueous layer was made acidic with 10% citric acid and extracted with EtOAc (2×75 mL). The combined EtOAc layers were washed with H2O (3×50 mL) brine (50 mL), dried (Na2SO4), concentrated, shaken with heptane and filtered to give the desired acid as a white solid (3.3 g, 94%).

reactant | (2S,3R)-3-tert-butoxycarbonylamino-2-(2-chloro-acetoxy)-4-(3-fluoro-phenyl)-butyric acid methyl ester | 11.3 mmol, 4.56 g, 1 eq | COC([C@H]([C@@H](CC1=CC(=CC=C1)F)NC(=O)OC(C)(C)C)OC(CCl)=O)=O | C18H23ClFNO6
reactant | NaOH | 25.9 mmol, 4N, 6.5 mL, 2.3 eq | [OH-].[Na+]
reactant | MeOH | 48 mL | CO | CH4O
solvent | 1.4-dioxane | 72 mL | O1CCOCC1 | C4H8O2
product | (2S,3R)-3-tert-butoxycarbonylamino-4-(3-fluoro-phenyl)-2-hydroxy-butyric acid | 3.3 g, 94% | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C(=O)O)O)CC1=CC(=CC=C1)F | C15H20FNO5
